US04925879
A solution of 6-[1-(4-chlorophenyl)cyclobutyl]-6-dimethylamino-2-methylhexanenitrile (2.25 g) in ether (15 ml) was added to a solution of methylmagnesium bromide [prepared from magnesium (0.29 g) and excess methylbromide gas in ether (20 ml)]. The mixture was stirred for one hour at 20° C. and then the ether was replaced by toluene (40 ml) and the mixture heated at 90° C. for 4 hours and then allowed to stand for 21/2 days at ambient temperature. The mixture was added to 1N hydrochloric acid (100 ml) and the mixture heated at 90°-95° C. for 30 minutes, cooled, basified with aqueous sodium hydroxide solution and extracted with ether. Removal of the ether from the dried extract gave a residue which was distilled on a Buchi Kugelrohr apparatus (170° C./0.5 mm) to give 7-[1-(4-chlorophenyl)cyclobutyl]-7-dimethylamino-3-methylheptan-2-one.

reactant | 6-[1-(4-chlorophenyl)cyclobutyl]-6-dimethylamino-2-methylhexanenitrile | 2.25 g | ClC1=CC=C(C=C1)C1(CCC1)C(CCCC(C#N)C)N(C)C | C19H27ClN2
reactant | methylmagnesium bromide | 20 ml, 0.29 g | C[Mg]Br
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 7-[1-(4-chlorophenyl)cyclobutyl]-7-dimethylamino-3-methylheptan-2-one | ClC1=CC=C(C=C1)C1(CCC1)C(CCCC(C(C)=O)C)N(C)C | C20H30ClNO
